* SPICE3 file created from Inverter.ext - technology: scmos

.option scale=0.09u

M1000 Inverter_Out Inverter_In gnd Gnd nfet w=11 l=2
+  ad=55 pd=32 as=55 ps=32
M1001 Inverter_Out Inverter_In vdd w_0_0# pfet w=22 l=2
+  ad=110 pd=54 as=110 ps=54
C0 Inverter_Out w_0_0# 0.02fF
C1 Inverter_In Inverter_Out 0.04fF
C2 vdd w_0_0# 0.02fF
C3 Inverter_In w_0_0# 0.06fF
C4 gnd Gnd 0.01fF
C5 Inverter_Out Gnd 0.02fF
C6 vdd Gnd 0.01fF
C7 Inverter_In Gnd 0.10fF
C8 w_0_0# Gnd 0.82fF
